US07612068B2
2-(tert-Butyl-dimethyl-silanyloxy)-propylamine
tert-Butyl-chloro-dimethyl-silane (2.6 g 17 mmol) was dissolved in DCM (20 mL). 1-Amino-propan-2-ol (1.2 g, 16 mmol), triethylamine (2.2 mL, 16 mmol) and a catalytic amount of DMAP were added. The reaction mixture was stirred for 16 h. Water (10 mL) was added and the phases were separated. The aqueous phase was extracted with EtOAc (2×100 mL). The combined organic phases were dried over magnesium sulfate, filtered and the filtrate was evaporated in vacuo. The product was isolated as an oil. Yield: 2.4 g, 80%.

reactant | tert-Butyl-chloro-dimethyl-silane | 17 mmol, 2.6 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | 1-Amino-propan-2-ol | 16 mmol, 1.2 g | NCC(C)O | C3H9NO
reactant | triethylamine | 16 mmol, 2.2 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 10 mL | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(tert-Butyl-dimethyl-silanyloxy)-propylamine | C(C)(C)(C)[Si](OC(CN)C)(C)C | C9H23NOSi
